US06600038B1
In a mixed solvent of 3 ml of methanol and 1 ml of water, 0.83 g of ethyl 2-[6-chloro-2-methyl-8-oxo-9-(4-isopropyl-2-methylthiophenyl)-8 9-dihydropurin-7-yl]acetate was dissolved, and subsequently, 80 mg of sodium hydroxide was added thereto. The reaction mixture was stirred for 30 minutes at room temperature. Water was poured into the reaction mixture. The reaction mixture was extracted with chloroform. The extract was dried over anhydrous sodium sulfate. After the desiccant was filtered off, the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent:chloroform—methanol=8:1) to yield 0.47 g of 2-[6-chloro-2-methyl-8-oxo-9-(4-isopropyl-2-methylthiophenyl)-8,9-dihydropurin-7-yl]acetic acid as an oil.

reactant | ethyl 2-[6-chloro-2-methyl-8-oxo-9-(4-isopropyl-2-methylthiophenyl)-8 9-dihydropurin-7-yl]acetate | 0.83 g | ClC1=C2N(C(N(C2=NC(=N1)C)C1=C(C=C(C=C1)C(C)C)SC)=O)CC(=O)OCC | C20H23ClN4O3S
reactant | sodium hydroxide | 80 mg | [OH-].[Na+]
solvent | methanol | 3 ml | CO | CH4O
solvent | water | 1 ml | O | H2O
product | 2-[6-chloro-2-methyl-8-oxo-9-(4-isopropyl-2-methylthiophenyl)-8,9-dihydropurin-7-yl]acetic acid | 0.47 g | ClC1=C2N(C(N(C2=NC(=N1)C)C1=C(C=C(C=C1)C(C)C)SC)=O)CC(=O)O | C18H19ClN4O3S
